US04032639
8-Amino-2,3,4,4a-Tetrahydro-1H-Pyrazino[1,2-a] Quinoxalin-5(6H)-One
A mixture of 1.5 g. of 8-amino-3-carbobenzoxy-2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a] quinoxalin-5(6H)-one, 1.5 g. of 10% Palladium on carbon catalyst and 150 ml. of ethanol is hydrogenated for 1/2 hour at 45 p.s.i. The catalyst is filtered and the filtrate concentrated to a volume of 50 ml. Ethanolic hydrochloric acid is added, and the product precipitates as the hydrochloric salt. Weight of product 0.70 g., m.p. 294°-295° dec. Recrystallization from ethanol-water gives 0.45 g. of pure product, m.p. 315°-317° dec.

reactant | 8-amino-3-carbobenzoxy-2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a] quinoxalin-5(6H)-one | NC=1C=C2NC(C3N(C2=CC1)CCN(C3)C(=O)OCC3=CC=CC=C3)=O | C19H20N4O3
catalyst | Palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 8-Amino-2,3,4,4a-Tetrahydro-1H-Pyrazino[1,2-a] Quinoxalin-5(6H)-One | NC=1C=C2NC(C3N(C2=CC1)CCNC3)=O | C11H14N4O
